US06803457B1
(2R,3R,4S,5S)(2-{[9-(4-Azido-3-hydroxy-5-methylcarbamoyl-tetrahydro-furan-2-yl)-9H-purin-6-ylamino]-methyl}-4-chloro-phenoxy)-acetic acid
(2R,3R,4S,5S)(2-{[9-(4-Azido-3-hydroxy-5-methylcarbamoyl-tetrahydro-furan-2-yl)-9H-purin-6-ylamino]-methyl}-4-chloro-phenoxy)-acetic acid tert-butyl ester (1 g, 1.9 mmol) was added to trifluoroacetic acid (15 mL) and stirred at room temperature for 3 hours. The mixture was concentrated and the residue was reconcentrated from chloroform three times to afford the title compound as a foam. M.S. 518 (M+H)+. 1H NMR (400 MHz, CD3OD) δ 8.5 (m, 2H); 7.38 (bs, 1H); 7.25 (d, 1H, J=8.0 Hz); 6.95 (d, 1H, J=8.0 Hz); 6.0 (d, 1H, J=4.0 Hz); 5.0 (m, 1H); 4.85 (m, 2H); 4.75 (s, 2H); 4.4 (m, 2H); 2.8 (s, 3H).

reactant | (2R,3R,4S,5S)(2-{[9-(4-Azido-3-hydroxy-5-methylcarbamoyl-tetrahydro-furan-2-yl)-9H-purin-6-ylamino]-methyl}-4-chloro-phenoxy)-acetic acid tert-butyl ester | 1.9 mmol, 1 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)Cl)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)N=[N+]=[N-])C(NC)=O)=O | C24H28ClN9O6
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2R,3R,4S,5S)(2-{[9-(4-Azido-3-hydroxy-5-methylcarbamoyl-tetrahydro-furan-2-yl)-9H-purin-6-ylamino]-methyl}-4-chloro-phenoxy)-acetic acid | N(=[N+]=[N-])[C@H]1[C@H]([C@@H](O[C@@H]1C(NC)=O)N1C2=NC=NC(=C2N=C1)NCC1=C(OCC(=O)O)C=CC(=C1)Cl)O | C20H20ClN9O6
